US06211170B1
To a solution of 1-(tert-butyldimethylsilyl)-4(R)-(hydroxymethyl)azetidin-2-one (2.75 g, 12.77 mmol) in THF (80 mL) was added PPh3 (6.70 g, 25.54 mmol). The reaction was cooled at 0° and DEAD (3.3 mL, 25.54 mmol) was added dropwise. After 5 min. 2-mercaptopyrimidine (3.60 g, 31.92 mmol) was added. After stirring for 15 min at 0° and 60 h at room temperature, the reaction mixture was concentrated. The residue was treated with EtOAc/hexane (1/1) and the resulting solid was filtered and rinsed with Et2O. The filtrate was concentrated and purified by flash chromatography (SiO2, 25% EtOAc/hexane) to provide 1-(tert-butyldimethylsilyl)-4(R)-(pyrimidin-2-ylsulfanylmethyl)azetidin-2-one (3.75 g, 95% yield) as clear oil. 1H NMR (400 MHz, CDCl3) δ 8.70 (d, J=4.8 Hz, 2H), 7.20 (t, J=4.9 Hz, 1H), 4.08-4.01 (m, 2H), 3.41-3.36 (m, 1H), 3.99 (dd, J=14.3, 10.8 Hz, 1H), 2.98 (dd, J=15.6, 2.5 Hz, 1H), 1.18 (s, 9H), 0.53 (s, 3H), 0.49 (s, 3H).

reactant | 1-(tert-butyldimethylsilyl)-4(R)-(hydroxymethyl)azetidin-2-one | 12.77 mmol, 2.75 g | [Si](C)(C)(C(C)(C)C)N1C(C[C@@H]1CO)=O | C10H21NO2Si
reactant | PPh3 | 25.54 mmol, 6.70 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 25.54 mmol, 3.3 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 2-mercaptopyrimidine | 31.92 mmol, 3.60 g | SC1=NC=CC=N1 | C4H4N2S
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 1-(tert-butyldimethylsilyl)-4(R)-(pyrimidin-2-ylsulfanylmethyl)azetidin-2-one | 3.75 g, 95% yield | [Si](C)(C)(C(C)(C)C)N1C(C[C@@H]1CSC1=NC=CC=N1)=O | C14H23N3OSSi
